US07521451B2
5,6-dimethyl-2-(3-fluorophenyl)-3-(4-methyl-1-piperazinyl)-carbonylmethylisoindolin-1-one
5,6-dimethyl-2-(3-fluorophenyl)-3-carboxymethyl-isoindolin-1-one [IUPAC name: 2-[2-(4-fluorophenyl)-5,6-dimethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl]acetic acid] (0.50 g, 1.6 mmol), 1-methylpiperazine (0.16 g, 1.6 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.31 g, 1.6 mmol) and 1-hydroxybenzotriazole hydrate (0.25 g, 1.6 mmol) were stirred in tetrahydrofuran (40 ml) at 25° C. for 16 hrs. The reaction solution was concentrated under reduced pressure, and the residue was purified by silica gel chromatography (chloroform:methanol=20:1) to give 0.56 g of the title compound.

reactant | 5,6-dimethyl-2-(3-fluorophenyl)-3-carboxymethyl-isoindolin-1-one | 1.6 mmol, 0.50 g | CC=1C=C2C(N(C(C2=CC1C)=O)C1=CC(=CC=C1)F)CC(=O)O | C18H16FNO3
reactant | 1-methylpiperazine | 1.6 mmol, 0.16 g | CN1CCNCC1 | C5H12N2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.6 mmol, 0.31 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 1.6 mmol, 0.25 g | O.ON1N=NC2=C1C=CC=C2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 5,6-dimethyl-2-(3-fluorophenyl)-3-(4-methyl-1-piperazinyl)-carbonylmethylisoindolin-1-one | 0.56 g | CC=1C=C2C(N(C(C2=CC1C)=O)C1=CC(=CC=C1)F)(N1CCN(CC1)C)C=C=O | C23H24FN3O2
